US08357679B2
D: 1,1,1,3,3,3-Hexafluoro-2-(4-(hydroxymethyl)-3-propylphenyl)propan-2-ol
4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)-2-propylbenzaldehyde (0.636 mmol, 200 mg) was dissolved in methanol (4 mL)/dichloromethane (1 mL) and sodium borohydride (1.909 mmol, 72.2 mg) was added. The mixture was stirred at room temperature for 90 minutes then was concentrated under reduced pressure. The residue was dissolved in dichloromethane (50 mL) and washed with a saturated solution of sodium bicarbonate (25 mL). The organic phase was filtered through a hydrophobic frit and concentrated to afford the title compound (161 mg). MS (ESI) m/z 315.1 [M−H]

reactant | 4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)-2-propylbenzaldehyde | 0.636 mmol, 200 mg | FC(C(C(F)(F)F)(O)C1=CC(=C(C=O)C=C1)CCC)(F)F | C13H12F6O2
reactant | sodium borohydride | 1.909 mmol, 72.2 mg | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1,1,1,3,3,3-Hexafluoro-2-(4-(hydroxymethyl)-3-propylphenyl)propan-2-ol | 161 mg | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)CO)CCC)(F)F | C13H14F6O2
